US05604237
1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[2-(4-nitrophenyl)ethyl]isoquinoline
A mixture of 1-(2-bromoethyl)-4-nitrobenzene (9.64 g), 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride (10.59 g) and potassium carbonate (17.38 g) in isopropanol (150 ml) was refluxed for 48 h. The mixture was then filtered and the filtrate evaporated to dryness. The resulting residue was taken up in water and extracted with dichloromethane. The organic layer was washed with water, dried and evaporated to give an oil which crystallised in a mixture of 2-propanol and diethyl ether to give the title compound (10.27 g). M.p.: 118°-119°.

reactant | 1-(2-bromoethyl)-4-nitrobenzene | 9.64 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride | 10.59 g | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | potassium carbonate | 17.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[2-(4-nitrophenyl)ethyl]isoquinoline | 10.27 g | COC=1C=C2CCN(CC2=CC1OC)CCC1=CC=C(C=C1)[N+](=O)[O-] | C19H22N2O4
